* C:\Users\ledererr8484\Desktop\digital_electronics-github\robert_lederer_digital_electronics-2022\LTSpice Files\Draft2.asc
XU1 0 N002 N004 NC_01 NC_02 N002 N003 N001 NE555
V1 N001 0 5V
C1 N002 0 100µF
R1 N004 0 1K
R3 N003 N002 400
R2 N001 N003 1K
.tran 10
.lib NE555.sub
.backanno
.end
